### ISSUE TITLE
Regression in v4.33.0-rc1: `simp` changes the type of hoisted proof

### ISSUE THREAD

**Issue by TWal** [leanprover/lean4#14467]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When updating DyLean to v4.33.0-rc1, I noticed the following regression:
when writing a proof inside a function definition, it seems that Lean hoists the proof in an auxiliary `._proof_1` theorem, however when proving this theorem using `simp`, the type of the hoisted theorem can change. See the example below.

```lean4
opaque Bytes: Type
opaque Bytes.length: Bytes → Nat

axiom foo
  {a: Type}
  (f: a → Bytes)
  (len: Nat)
  (h: ∀ x, (f x).length = len) 
  : a

def f {len: Nat} (b: { b: Bytes // b.length = len}): Bytes :=
  b.val

noncomputable
def bar (len: Nat) : ({ b: Bytes // b.length = len}) :=
  foo f len (by
    simp [f]
    -- fix: instead use grind [f]
  )


set_option linter.tacticCheckInstances true

/--
warning: produced tactic goal is not type-correct at `.implicit` transparency; consider using propositional rewriting or marking some of the following as `@[implicit_reducible]`:
  f
Full error:
  Application type mismatch: The argument
    bar._proof_1 len
  has type
    ∀ (x : { a // a.length = len }), @Eq Nat x.val.length len
  but is expected to have type
    ∀ (x : { b // b.length = len }), @Eq Nat (f x).length len
  in the application
    foo f len ⋯

Note: This linter can be disabled with `set_option linter.tacticCheckInstances false`
-/
#guard_msgs in
example (len: Nat): bar len = bar len := by
  unfold bar
  rfl

-- diagnostic: bar._proof_1 has the wrong type!
-- should be: .................................................. : (f x).length = len -/
/-- info: bar._proof_1 (len : Nat) (x : { a // a.length = len }) : x.val.length = len -/
#guard_msgs in
#check bar._proof_1
```

### Context

Unlikely to stem from #13895? Because adding the option `set_option backward.isDefEq.respectTransparency.types false` does not fix the issue.

### Steps to Reproduce

**Expected behavior:** using `simp` or any other tactic does not change the type of the hoisted theorem

**Actual behavior:** using `simp` changes the type of the hoisted theorem, and leaks the definition of `f`

### Versions

- "4.33.0-rc1"
- "4.34.0, commit 323137b022369d56a044ae5af01d1efd55872361" (on live.lean-lang.org)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Kha** [comment]
The impact of this issue is not clear to me, is the actual problem that the linter is triggered? How did you determine that previous version used a different type?

**Comment by TWal** [comment]
Ah indeed, you are correct: it is not a regression, in that v4.32.0 and v4.31.0 also show the same behavior.

However, this behavior combined with #13895 creates problems down the line, for example:
- `deriving` instance does not work
- some simple theorems proved by `simp` do not work anymore

Theses are a reproduction of the actual problems I encountered in DyLean, but I am sure we can find many more. For now, my workaround has been to use `grind` instead of `simp` for my proof internal to `bar` (shown below). But given that Lean comes with proof irrelevance, I find it weird that the tactics chosen for this inner proof actually impacts downstream proofs abour `bar`.

```lean4
opaque Bytes: Type
opaque Bytes.length: Bytes → Nat

structure F (α: Type) where
  serialize: α → Bytes
class C {α: Type} (β: F α) where
axiom wf {α: Type} (β: F α): Prop

axiom foo {a: Type} (f: F a) (len: Nat) (h: ∀ x, (f.serialize x).length = len): F a

instance {a: Type} (f: F a) (len: Nat) (h: ∀ x, (f.serialize x).length = len): C (foo f len h) where

axiom foo_wf {a: Type} (f: F a) (len: Nat) (h: ∀ x, (f.serialize x).length = len): wf (foo f len h) = wf f

def f (len: Nat): F { b: Bytes // b.length = len} where
  serialize b := b.val

axiom f_wf (len: Nat): wf (f len)

section WithSimp

/--
error: failed to synthesize instance of type class
  C (foo (f len) len ⋯)

Hint: Type class instance resolution failures can be inspected with the `set_option trace.Meta.synthInstance true` command.
---
error: Failed to delta derive `C` instance for `bar`.

Note: Delta deriving tries the following strategies: (1) inserting the definition into each explicit non-out-param parameter of a class and (2) unfolding definitions further.
-/
#guard_msgs in
noncomputable
def bar (len: Nat) : F {b: Bytes // b.length = len} :=
  foo (f len) len (by
    simp [f]
  )
deriving C

/--
error: unsolved goals
len : Nat
⊢ wf (foo (f len) len ⋯)
---
warning: This simp argument is unused:
  foo_wf

Hint: Omit it from the simp argument list.
  [apply] simp only [bar, f_wf]

Note: This linter can be disabled with `set_option linter.unusedSimpArgs false`
---
warning: This simp argument is unused:
  f_wf

Hint: Omit it from the simp argument list.
  [apply] simp only [bar, foo_wf]

Note: This linter can be disabled with `set_option linter.unusedSimpArgs false`
-/
#guard_msgs in
theorem bar_wf (len: Nat): wf (bar len) := by
  simp only [bar, foo_wf, f_wf]

end WithSimp

section WithGrind

noncomputable
def baz (len: Nat) : F {b: Bytes // b.length = len} :=
  foo (f len) len (by
    grind [f]
  )
deriving C

theorem baz_wf (len: Nat): wf (baz len) := by
  simp only [baz, foo_wf, f_wf]

end WithGrind
```

**Comment by TWal** [comment]
I found a general workaround: start the tactic with `apply id`, like this:

```lean4
noncomputable
def bar (len: Nat) : F {b: Bytes // b.length = len} :=
  foo (f len) len (by
    apply id
    simp [f]
  )
deriving C
```
